US08536168B2
1-Benzyl-4-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-phthalazine
To a solution of 1-benzyl-4-piperazin-1yl-phthalazine (100 mg, 0.329 mmol) in 1 mL THF is added 4-bromo-benzotrifluoride (99 mg, 0.443 mmol), potassium tert-butoxide (55.3 mg, 0.493 mmol), XPhos [2-(Dicyclohexylphosphino)-2′,4′,6′-tri-1-propyl-1′-1′-biphenyl] (15.7 mg, 0.033 mmol), and palladium (II) acetate (11 mg, 0.16 mmol) in a 2 dram screw-top vial. The vial is evacuated and flushed with argon. The reaction mixture was heated to 110° C. for 18 hrs. The mixture is then poured into water (50 mL), and the precipitate is isolated by filtration. The resulting solid is purified by flash chromatography on silica gel (10-70% EtOAc:heptanes) to provide the desired product as yellow crystals (54 mg, 37% yield).

reactant | 1-benzyl-4-piperazin-1yl-phthalazine | 0.329 mmol, 100 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCNCC1 | C19H20N4
reactant | 4-bromo-benzotrifluoride | 0.443 mmol, 99 mg | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | potassium tert-butoxide | 0.493 mmol, 55.3 mg | CC(C)([O-])C.[K+]
reactant | XPhos | 0.033 mmol, 15.7 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | palladium (II) acetate | 0.16 mmol, 11 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-Benzyl-4-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-phthalazine | 54 mg, 37% yield | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C26H23F3N4
